US07943622B2
6-methyloxazolo[4,5-b]pyridine-2(3H)-thione
3-Bromo-2-amino-5-methylpyridine (1.0 g, 5.3 mmol), potassium hydroxide (1.19 g, 21.2 mmol) and copper powder (17 mg, 0.27 mmol) were heated to 150° C. in ethylene glycol (2.3 mL). After 4 h, the reaction mixture was allowed to cool to rt, carbon disulfide (10 mL) was added, and heating was continued at 70° C. overnight. Upon cooling to rt, the reaction mixture concentrated under reduced pressure. 1 N HCl (20 mL) was added, and the resulting dark solid was collected by filtration. The solid was washed with water (2×) and air dried followed by drying in a 35° C. vacuum oven, yielding 0.817 g (93%) of the title compound. LC-MS: RT=4.14 min, [M+H]+=167.0, ˜80% pure.

reactant | 3-Bromo-2-amino-5-methylpyridine | 5.3 mmol, 1.0 g | BrC=1C(=NC=C(C1)C)N | C6H7BrN2
reactant | potassium hydroxide | 21.2 mmol, 1.19 g | [OH-].[K+]
reactant | carbon disulfide | 10 mL | C(=S)=S | CS2
solvent | ethylene glycol | 2.3 mL | C(CO)O | C2H6O2
catalyst | copper | 0.27 mmol, 17 mg | [Cu] | Cu
product | 6-methyloxazolo[4,5-b]pyridine-2(3H)-thione | 0.817 g, 93% | CC=1C=C2C(=NC1)NC(O2)=S | C7H6N2OS
